Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Facial pain 
Left eye pain
Bilateral chest wall pain 
Assault
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Patient is an ___ year old male, not on anti-coagulation, who 
presented as transfer from ___ s/p assault. Patient is 
an inmate at ___ and was assaulted 
earlier today by another inmate. Was kicked in the head twice 
and kicked in the chest twice, no LOC. He notes facial pain, L 
eye pain associated with decreased visual acuity, and bilateral 
upper chest wall pain. At the OSH, imaging was significant for 
left 7th rib fracture and EKG with atrial fibrillation. He was 
transferred here to ___ for trauma evaluation and further 
care.
 
Past Medical History:
Atrial fibrillation (s/p cardioversion in ___ 
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam 

Constitutional: Comfortable, awake, alert 
Head / Eyes: ENT / Neck: Extraocular muscles intact, Pupils 
equal, round and reactive to light; periorbital ecchymoses 
bilaterally, no septal hematoma, dried blood in nares, normal 
bite
Chest/Resp: Clear to auscultation, chest wall tenderness 
bilaterally
Cardiovascular: Normal first and second heart sounds, Regular 
Rate and Rhythm
GI / Abdominal: Soft, Nontender, Nondistended
Musc/Extr/Back: No cyanosis, clubbing or edema; no T or L spine 
TTP
Skin: No rash, warm and dry, ecchymosis to R arm 
Neuro: Speech fluent, moving all extremities 

Discharge Physical Exam 

General: AAO x4, resting comfortably in bed, NAD 
HEENT: Bilateral periorbital edema and ecchymosis, + tenderness 
to palpation; L eye conjunctival injection; + EOMI, +PERRL 
bilaterally
CV: +irregular rate, normal S1/S2, no RMG 
Resp: Normal WOB, +CTAB, no wheezes or crackles 
GI: Abdomen soft, non-distended, non-TTP; no rebound or 
guarding; +BS x 4 quadrants 
Neuro: CN II-XII intact, sensation grossly intact and 
bilaterally symmetrical, strength ___ in bilateral upper & lower 
extremities, normal coordination 
Skin: Ecchymosis to R arm 
Ext: Warm, well, perfused, no peripheral edema 

 
Pertinent Results:
___ 04:23PM   LACTATE-1.7
___ 03:55PM   GLUCOSE-87 UREA N-11 CREAT-0.8 SODIUM-142 
POTASSIUM-5.0 CHLORIDE-103 TOTAL CO2-22 ANION GAP-17
___ 03:55PM   estGFR-Using this
___ 03:55PM   LIPASE-13
___ 03:55PM   WBC-9.3 RBC-4.10* HGB-13.3* HCT-40.0 MCV-98 
MCH-32.4* MCHC-33.3 RDW-12.6 RDWSD-45.1
___ 03:55PM   NEUTS-64.0 ___ MONOS-8.4 EOS-0.9* 
BASOS-0.2 IM ___ AbsNeut-5.96 AbsLymp-2.44 AbsMono-0.78 
AbsEos-0.08 AbsBaso-0.02
___ 03:55PM   PLT COUNT-142*
___ 03:55PM   ___ PTT-31.4 ___
___ 03:40PM URINE  HOURS-RANDOM
___ 03:40PM URINE  UHOLD-HOLD
___ 03:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
Patient is an ___ year old male, not  on anti-coagulation, 
presenting as a trauma transfer from OSH on ___. Patient is 
an inmate at ___ and was assaulted 
earlier that morning by another inmate. Kicked in the head x2, 
kicked in the chest x2, no LOC. Notes facial pain, pain to L eye 
associated with decreased vision, and bilateral chest wall pain. 
Denies any SOB. Imaging at OSH notable for non-diplaced L ___ 
rib fracture and questionable nasal bone fracture, and EKG with 
atrial fibrillation. Transferred for trauma evaluation and 
further care. 

Primary survey was intact, with negative eFAST. Secondary survey 
was notable for bilateral periorbital ecchymosis and edema, L 
eye conjunctival injection, bilateral upper chest wall 
tenderness. CXR was obtained, which demonstrated low lung 
volumes with mild left basilar atelectasis and chronic appearing 
bilateral posterior rib fractures, but no acutely displaced rib 
fractures appreciated. OSH imaging was reviewed, per the 
official Radiology report, the nasal bone fracture was chronic 
appearing. Lab work was unremarkable. 

Ophthalmology was consulted for the L eye pain with decreased 
visual acuity, and the patient was found to have a L 
subconjunctival hemorrhage and small L corneal abrasion. They 
noted his decreased visual acuity was most likely secondary to 
advanced cataract. They recommended starting moxifloxacin drops 
QID and erythromycin ointment BID to the L eye, and close follow 
up with a local eye provider ___ 1 week of discharge. 

The patient was admitted to the Acute Care Surgery Service for 
monitoring and conservative management of his rib fracture. His 
pain was well controlled with scheduled Tylenol and PRN 
oxycodone. Overnight, patient was in atrial fibrillation with 
brief asymptomatic runs of bradycardia to the ___ while asleep, 
lasting a few seconds and self-resolving. Internal Medicine was 
consulted for the AFib with bradycardia, and after evaluating 
the patient, they reported the runs of bradycardia while asleep 
were not concerning. Given the possible risks of 
anti-coagulation with the patient's age and recent history of 
trauma, they recommended the patient follow up with an 
outpatient Internal Medicine provider ___ 2 weeks of 
discharge to discuss his atrial fibrillation and possible 
long-term anti-coagulation. 

Tertiary survey on HD1 revealed no additional injuries, and the 
patient was cleared by ___ for discharge back to his ___ 
facility. He was progressing well post-trauma and no longer had 
acute inpatient needs, and was discharged to his ___ 
facility. At the time of discharge, the patient was doing well, 
afebrile and hemodynamically stable.  The patient was tolerating 
a regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID Duration: 7 Days 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0 
2.  Ciprofloxacin 0.3% Ophth Soln 1 DROP LEFT EYE QID 
RX *ciprofloxacin HCl 0.3 % 1 drop to L eye four times a day 
Refills:*0 
3.  Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE BID 
RX *erythromycin 5 mg/gram (0.5 %) Ointment L eye twice a day 
Refills:*0 
4.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate Duration: 7 Days 

Do not exceed 3200 mg/day 
RX *ibuprofen 800 mg 1 tab by mouth every eight (8) hours Disp 
#*21 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left 7th rib fracture 
Periorbital edema 
Left eye subconjunctival hemorrhage 
Left eye corneal abrasion 
Atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after 
trauma, with injuries including a left 7th rib fracture, 
periorbital edema, left eye subconjunctival hemorrhage, and 
small left eye corneal abrasion. You were managed conservatively 
with pain control for your rib fractures. Your left eye was 
evaluated by Ophthalmology, and they recommended starting 
moxifloxacin eye drops and erythromycin drops to the left eye, 
with close follow up with a local eye provider ___ 1 week. You 
were also seen by the Internal Medicine team for atrial 
fibrillation, and they recommended following up with Internal 
Medicine as an outpatient to discuss possible treatment with 
blood thinners. You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon. Avoid driving or operating heavy machinery while taking 
pain medications.

MEDICATIONS: Take all the medicines you were on before the 
operation just as you did before, unless you have been told 
differently. If you have any questions about what medicine to 
take or not to take, please call your surgeon. 

Rib Fractures: 
* Your injury caused a left 7th rib fracture which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain. 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician. 
* Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing. 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain. 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible. 
* Do NOT smoke * If your doctor allows, non-steroidal 
___ drugs are very effective in controlling pain ( 
ie, Ibuprofen, Motrin, Advil, Aleve, Naprosyn) but they have 
their own set of side effects so make sure your doctor approves. 

* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

Left eye subconjunctival hemorrhage and corneal abrasion 
* Follow up with local eye provider ___ 1 week
* NO contact lens use until follow-up

Atrial fibrillation 
* Follow up with an outpatient Internal Medicine doctor within 2 
weeks of discharge for long-term treatment of atrial 
fibrillation 

Warm regards, Your ___ Surgery Team 
 
Followup Instructions:
___